US08247430B2
2-Methylamino-isonicotinonitrile
To a solution of 2-chloroisonicotinonitrile (22.0 g, 159 mmole) in pyridine (500 mL) was added methylamine in THF (2N, 160 mL), and NaHCO3 (54 g). The mixture was heated to 120° C. in a sealed vessel for 40 h. After cooled to RT, the mixture was filtered and the filter cake was washed with CH2Cl2. The combined filtrated was concentrated in vacuo to give a yellow solid (21 g) as the desired compound.

reactant | 2-chloroisonicotinonitrile | 159 mmole, 22.0 g | ClC=1C=C(C#N)C=CN1 | C6H3ClN2
reactant | methylamine | CN | CH5N
reactant | NaHCO3 | 54 g | C(=O)(O)[O-].[Na+]
solvent | pyridine | 500 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | 2N, 160 mL | C1CCOC1 | C4H8O
product | 2-Methylamino-isonicotinonitrile | 21 g | CNC=1C=C(C#N)C=CN1 | C7H7N3
